US06020339
Example 31: 3-Bromo-2-(3-cyclopentyloxy-4-methoxyphenyl)-5-(2-pyridyl)furan
A mixture of 2-(3-cyclopentyloxy-4-methoxyphenyl)-5-(2-pyridyl)furan, (0.5 g) example 2, in CH2Cl2 (3 ml) and diisopropylamine(21 ul) and NBS (0.320 g) were stirred for 20 mins. at room temperature. The reaction mixture was quenched with Na2CO3, extracted with CH2Cl2 dried with sodium sulfate and evaporated in vacuo to afford the title compound as a beige solid in 63% yield. 1H NMR (300 MHz, CDCl3): δ 1.6 (m, 2H), 2.0-1.8 (m, 6H), 3.90 (s, 3H), 4.95 (m, 1H), 7.05 (dd, 1H), 7.23 (m, 2H), 7.43 (m, 2H), 7.85 (dd, 2H), 8.5 (dd, 1H).

reactant | 2-(3-cyclopentyloxy-4-methoxyphenyl)-5-(2-pyridyl)furan | 0.5 g | C1(CCCC1)OC=1C=C(C=CC1OC)C=1OC(=CC1)C1=NC=CC=C1 | C21H21NO3
reactant | diisopropylamine | 21 ul | C(C)(C)NC(C)C | C6H15N
reactant | NBS | 0.320 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-Bromo-2-(3-cyclopentyloxy-4-methoxyphenyl)-5-(2-pyridyl)furan | 63% yield | BrC1=C(OC(=C1)C1=NC=CC=C1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C21H20BrNO3
